US04575452
(I) Preparation of 4,4'-[1,4-phenylenebis(2,5-oxazolediyl)]-bisbenzenesulfonic acid (POPOP-disulfonic acid)
One hundred milliliters of 20% fuming sulfuric acid (oleum) is charged into a 500 mL flask. Stirring is begun, and 50.0 g of POPOP is added in small portions. The reaction is exothermic. After the addition is complete, the reaction mixture is heated at about 90°-100°C. with stirring for two hours. The reaction is then quenched by pouring the reaction mixture onto 500 g of crushed ice with stirring. A bright-yellow product precipitates as a very fine powder. The resulting suspension is allowed to stand overnight. The product is then collected on a medium-porosity fritted-glass Buchner funnel. It should not be washed at this point, nor should the filter cake be disturbed. As much liquid is removed from the filter cake as possible. The pasty filter cake is then washed by stirring it in 200 mL of 2/1 (v/v) water/methanol or 1/20/10 concentrated hydrochloric acid/water/methanol. Water alone should not be used, as a very thick paste will form. Stirring is continued until the product is finely dispersed. The suspension is then allowed to settle briefly, and the solid is collected by vacuum filtration. The washing process should be repeated once. The product is then dried in a vacuum oven at 60°-70° C. Typical yields are 67-73 g (90-94%).

reactant | POPOP | 50.0 g | C1=CC=C(C=C1)C2=CN=C(O2)C3=CC=C(C=C3)C4=NC=C(O4)C5=CC=CC=C5 | C24H16N2O2
reactant | sulfuric acid | One hundred milliliters | S(O)(O)(=O)=O | H2O4S
product | 4,4'-[1,4-phenylenebis(2,5-oxazolediyl)]-bisbenzenesulfonic acid | C1(=CC=C(C=C1)C=1OC(=CN1)C1=CC=C(C=C1)S(=O)(=O)O)C=1OC(=CN1)C1=CC=C(C=C1)S(=O)(=O)O | C24H16N2O8S2
